Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
Left upper radiculopathy
 
Major Surgical or Invasive Procedure:
___: C4-C5,C5-C6 Anterior Discectomy and Fusion

 
History of Present Illness:
___ who has a ___ year history of pain radiating down her left 
arm into the elbow and new paresthesias in both of her hands, 
consistent with a C5
radiculopathy. Previously she had a lumbar fusion in her lower 
spine which helped with her back pain. She tried physical 
therapy, massage, acupuncture, and chiropractor adjustment foot, 
without much improvement. MRI revealed two large disc osteophyte 
complexes, one at C4-5 and one at C5-6. There is loss of CSF 
signal and starting spinal cord compression at these levels. 
There is foraminal narrowing at C4-5 bilaterally. Plan was made 
for elective C4-C5, C5-C6 anterior discectomy and fusion

 
Past Medical History:
OSA
Arthritis
Headaches
Hypothyroid
GERD
IBS
Prior 3rd degree burn to left arm,back,chest,breast with skin 
grafts from thigh/abdomen in ___.
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On Discharge
------------
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
[x]Clean, dry, intact 
[x]Dermabond 

 
Pertinent Results:
Please see OMR for pertinent lab/imaging studies.
 
Brief Hospital Course:
On ___, the patient presented for elective ACDF of C4-5, C5-6. 
The OR case was uncomplicated, please see OMR for detailed 
operative report. The patient was extubated in the OR and 
transferred to PACU for ongoing monitoring. She remained 
hemodynamically and neurologically stable and was then 
transferred to the floor. She remained neurologically intact and 
ambulated independently with good oxygen saturation on POD1. She 
was subsequently discharged to home on ___.
 
Medications on Admission:
Calcium Carbonate
Cyanocobalamin
Imitrex
Levothyroxine - 50 mcg
Nexium - 
Acetazolamide
Venafaxine - 75mg ER
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4g per day. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth Q6H PRN Disp 
#*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Diazepam 5 mg PO Q8H:PRN muscle spasm 
RX *diazepam 5 mg 1 tablet by mouth Q8H PRN Disp #*30 Tablet 
Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
___ request partial fill. 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6H PRN Disp #*30 Tablet 
Refills:*0 
6.  Senna 17.2 mg PO QHS  
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  Nexium 20 mg Other DAILY  
9.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical stenosis with radiculopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath 
the skin and dermabond. You do not need suture removal. 
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___